US07666877B2
Step 1: (6aR,9R)-7-Cyano-4,6,6a,7,8,9-hexahydro-indolo[4,3-fg]quinoline-9-carboxylic acid methyl ester
To a 50 ml round-bottom flask containing a solution of lysergic acid methyl ester (1.0 g, 3.54 mmol) in anhydrous dichloromethane (50 ml) is slowly added cyanogen bromide (2.02 g, 19.11 mmol) and the resulting black-coloured reaction mixture is stirred at room temperature for 4 hours by which time TLC in 10% methanol/dichloromethane showed partial conversion of starting material to give two faster-running products. The reaction mixture is left stirring over the weekend and monitored by TLC showing no change. The reaction mixture is then stirred at 50° C. for 4 hours and is then extracted between tartaric acid and dichloromethane. The aqueous phase is re-extracted with dichloromethane (100 ml) and the combined organic phases washed with brine (200 ml), dried over MgSO4, filtered and concentrated in vacuo to give a dark brown (tar-coloured) oil. Purification is carried out by Normal Phase Flash column chromatography (Biotage Flash 40, 90 g cartridge) using 40% ethyl acetate/hexane to achieve separation of the fast-running product which is isolated as a pale yellow solid. The product is crystallized from tert. Butyl methylether and slowly evaporated. The resulting crystallized material is filtered at the pump to give pale yellow crystals.

reactant | lysergic acid methyl ester | 3.54 mmol, 1.0 g | COC(=O)[C@H]1CN(C)[C@@H]2CC3=CNC4=CC=CC(C2=C1)=C34 | C17H18N2O2
reactant | cyanogen bromide | 19.11 mmol, 2.02 g | N#CBr | CBrN
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | methanol dichloromethane | CO.ClCCl
product | (6aR,9R)-7-Cyano-4,6,6a,7,8,9-hexahydro-indolo[4,3-fg]quinoline-9-carboxylic acid methyl ester | COC(=O)[C@H]1CN([C@@H]2CC=3C4=C(C2=C1)C=CC=C4NC3)C#N | C17H15N3O2
